US08703774B2
The protective group was removed by introducing 40 g (135 mmol) of tert-butyl 4-(4-ethylpiperazin-1-yl)piperidine-1-carboxylate from example a.1 into 200 ml of methanol and 1.8 l of dichloromethane and adding 100 ml of 5-6M HCl solution in isopropanol. A suspension resulted, and slight gas evolution was also observable. The reaction mixture was stirred at 40° C. (water bath temperature) for one hour and then stirred at room temperature for 48 hours. For complete deprotection, 50 ml of the 5-6M HCl solution in isopropanol were again added and the reaction mixture was stirred at 40° C. The dichloromethane was distilled out in a rotary evaporator. 200 ml of methanol and 30 ml of the 5-6M HCl solution in isopropanol were again added. The reaction mixture was stirred under reflux for one hour, during which a white suspension formed with strong evolution of gas. A mobile suspension then resulted and was cooled to room temperature. The precipitate was filtered off with suction and washed with methanol and diethyl ether. After drying, 36 g (117 mmol, 87%) of 1-ethyl-4-piperidin-4-ylpiperazine were isolated as chloride salt.

reactant | tert-butyl 4-(4-ethylpiperazin-1-yl)piperidine-1-carboxylate | 135 mmol, 40 g | C(C)N1CCN(CC1)C1CCN(CC1)C(=O)OC(C)(C)C | C16H31N3O2
reactant | methanol | 200 ml | CO | CH4O
reactant | dichloromethane | 1.8 l | ClCCl | CH2Cl2
reactant | HCl | 5-6M, 100 ml | Cl | ClH
reactant | HCl | 5-6M | Cl | ClH
solvent | isopropanol | C(C)(C)O | C3H8O
solvent | water | O | H2O
product | 1-ethyl-4-piperidin-4-ylpiperazine | 117 mmol, 36 g, 87% | C(C)N1CCN(CC1)C1CCNCC1 | C11H23N3
